** sch_path: /home/anton/projects/tt-vga-fun/xschem/01-nfet-sweep.sch
**.subckt 01-nfet-sweep
XM1 vcc G net1 net1 sky130_fd_pr__nfet_01v8 L={GL} W={GW} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V1 vcc GND 1.8
Vg G GND 0
Vsi net1 GND 0
**** begin user architecture code



.DC Vg 0 1.8 0.01

.param GW = 0.5
.param GL = 0.15

.options savecurrents
.control

  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.2
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.25
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.3
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.35
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.4
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.45
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)

  alterparam GL=0.5
  set appendwrite
  reset
  save all
  run
  write 01.raw G i(vsi)


.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends
.GLOBAL GND
.end
