** sch_path: /home/anton/projects/tt-vga-fun/xschem/02-nfet-sweep2.sch
**.subckt 02-nfet-sweep2
XM1 vcc G net1 net1 sky130_fd_pr__nfet_01v8 L={GL} W={GW} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V1 vcc GND 1.8
Vg G GND 0
Vsi net1 GND 0
**** begin user architecture code



.DC Vg 0 1.8 0.01

.param GW     = 0.5
.param GL     = 0.15

.options savecurrents
.control

  let gwstart = 0.5
  let gwstep  = 0.05
  let gwi     = gwstart

  repeat 10
    set gwvar=$&gwi
    echo Gate width = $gwvar
    alterparam GW = $gwvar
    save all
    run
    write 02.raw G i(vsi)
    set appendwrite
    reset
    let gwi = gwi + gwstep
  end

.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends
.GLOBAL GND
.end
