** sch_path: /home/anton/projects/tt-vga-fun/xschem/03-nfet-sweep3.sch
**.subckt 03-nfet-sweep3
XM1 vcc G net1 net1 sky130_fd_pr__nfet_01v8 L=0.15 W={GW} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V1 vcc GND 1.8
Vg G GND 0
Vs0p15 net1 GND 0
XM2 vcc G net2 net2 sky130_fd_pr__nfet_01v8 L=0.25 W={GW} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs0p25 net2 GND 0
XM3 vcc G net3 net3 sky130_fd_pr__nfet_01v8 L=0.35 W={GW} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs0p35 net3 GND 0
XM4 vcc G net4 net4 sky130_fd_pr__nfet_01v8 L=0.5 W={GW} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vs0p50 net4 GND 0
**** begin user architecture code



.DC Vg 0 1.8 0.01

.param GW     = 0.5
.param GL     = 0.15

.options savecurrents
.control

  let gwstart = 0.5
  let gwstep  = 0.05
  let gwi     = gwstart

  repeat 10
    set gwvar=$&gwi
    echo Gate width = $gwvar
    alterparam GW = $gwvar
    save all
    run
    write 03.raw G i(Vs0p15) i(Vs0p25) i(Vs0p35) i(Vs0p50)
    set appendwrite
    reset
    let gwi = gwi + gwstep
  end

.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/anton/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends
.GLOBAL GND
.end
